US07026339B2
To a solution of 2-[(4-methylphenyl)sulfonyl]benzaldehyde (500 mg, 1.92 mmol) in EtOH (10 mL) is added 2-(3-methoxyphenyl)acetohydrazide (329 mg, 1.92 mmol) and the reaction is heated to 80° C. for 1 h. While cooling a white precipitate forms, and this solid is isolated by filtration and washed with portions of EtOH and Et2O. This solid was dried under vacuum to provide 2-(3-methoxyphenyl)-N′-((1E)-{2-[(4-methylphenyl)sulfonyl]phenyl}methylene)acetohydrazide (313 mg, 39%). 1H-NMR (400 MHz, DMSO-d6) 12.00–11.85 (m, 1H), 8.95–8.80 (m, 1H), 8.16–8.10 (m, 1H), 7.99–7.81 (2H), 7.72–7.65 (m, 2H), 7.42–7.37 (m, 2H), 7.27–7.16 (m, 1H), 6.93–6.76 (m, 4H), 3.92–3.36 (m, 5H), 2.35 (s, 3H). ESI+ for C23H22N2O4S, m/z: 423, (M+H)+.

reactant | 2-[(4-methylphenyl)sulfonyl]benzaldehyde | 1.92 mmol, 500 mg | CC1=CC=C(C=C1)S(=O)(=O)C1=C(C=O)C=CC=C1 | C14H12O3S
reactant | 2-(3-methoxyphenyl)acetohydrazide | 1.92 mmol, 329 mg | COC=1C=C(C=CC1)CC(=O)NN | C9H12N2O2
solvent | EtOH | 10 mL | CCO | C2H6O
product | 2-(3-methoxyphenyl)-N′-((1E)-{2-[(4-methylphenyl)sulfonyl]phenyl}methylene)acetohydrazide | 313 mg, 39% | COC=1C=C(C=CC1)CC(=O)N/N=C/C1=C(C=CC=C1)S(=O)(=O)C1=CC=C(C=C1)C | C23H22N2O4S
